US07144899B2
Step F: 4-Methyl-D-leucyl-N-[2-(1H-tetraazol-1-yl)-5-(trifluoromethyl)benzyl]-L-prolinamide
TFA (1 mL) was added to a solution of N-(tert-butoxycarbonyl)-4-methyl-D-leucyl-N-[2-(1H-tetraazol-1-yl)-5-(trifluoromethyl)benzyl]-L-prolinamide (32 mg, 0.06 mmol) in dry CH2Cl2 (3 mL). The solution was stirred at room temperature for 30 min and was then concentrated in vacuo. The title compound was isolated by reverse phase HPLC as a white foam. 1H NMR (400 MHz, CD3OD)): δ 9.62 (s, 1H), 8.03 (s, 1H), 7.89 (dd, J=1.5, 8.2 Hz, 1H), 7.74 (d, J=8.3 Hz, 1H), 4.42 (d, J=15.6 Hz, 1H), 4.35 (d, J=15.6 Hz, 1H), 4.30 (dd, J=3.7, 8.6 Hz, 1H), 4.17 (apparent t, J=6.4 Hz, 1H), 3.83–3.78 (m, 1H), 3.62–3.56 (m, 1H), 2.25–2.18 (m, 1H), 2.15–1.85 (m, 4H), 1.64 (dd, J=6.8, 14.8 Hz, 1H), 1.01 (s, 9H). HRMS (ESI, M+H): 468.2324 (found); 468.2335 (calculated).

reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N-(tert-butoxycarbonyl)-4-methyl-D-leucyl-N-[2-(1H-tetraazol-1-yl)-5-(trifluoromethyl)benzyl]-L-prolinamide | 0.06 mmol, 32 mg | C(C)(C)(C)OC(=O)N[C@H](CC(C)(C)C)C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)C(F)(F)F)N2N=NN=C2)CCC1 | C26H36F3N7O4
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-Methyl-D-leucyl-N-[2-(1H-tetraazol-1-yl)-5-(trifluoromethyl)benzyl]-L-prolinamide | CC(C[C@@H](N)C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)C(F)(F)F)N2N=NN=C2)CCC1)(C)C | C21H28F3N7O2
